US09029560B2
Preparation of (Z)-1-(3-(2-isopropyl-5-methoxyphenyl)-4-oxothiazolidin-2-ylidene)-3-(2-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)butyl)urea (P683)
The title compound was prepared from 3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)pentanoyl azide/3-(4-(1-isocyanatobutan-2-yl)phenyl)-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole (C42a) and 1-(2-isopropyl-5-methoxyphenyl)thiourea (CA40) and isolated as a brown foam (0.091 g, 47%).

reactant | 3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)pentanoyl azide 3-(4-(1-isocyanatobutan-2-yl)phenyl)-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)C(CC(=O)N=[N+]=[N-])CC)(F)F.N(=C=O)CC(CC)C1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F
reactant | 1-(2-isopropyl-5-methoxyphenyl)thiourea | C(C)(C)C1=C(C=C(C=C1)OC)NC(=S)N | C11H16N2OS
product | (Z)-1-(3-(2-isopropyl-5-methoxyphenyl)-4-oxothiazolidin-2-ylidene)-3-(2-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)butyl)urea | C(C)(C)C1=C(C=C(C=C1)OC)N1/C(/SCC1=O)=N/C(=O)NCC(CC)C1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C33H33F3N6O4S
